US08217066B2
Step 4: 1-{4′-[4-(2-Benzyloxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
To a solution of 1-{4′-[4-(2-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester (0.080 g, 0.19 mmol) in DMF (1 mL) was added sodium hydride (60% in mineral oil, 0.010 g, 0.24 mmol), followed by benzyl bromide (0.024 mL, 0.20 mmol), and the reaction was stirred at room temperature for 1 hour. After aqueous workup, the crude material was purified by silica gel chromatography (0-15% EtOAc in hexanes) to give the title compound.

reactant | 1-{4′-[4-(2-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | 0.19 mmol, 0.080 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CCO | C24H25NO4
reactant | sodium hydride | 0.24 mmol, 0.010 g | [H-].[Na+]
reactant | benzyl bromide | 0.20 mmol, 0.024 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-{4′-[4-(2-Benzyloxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CCOCC1=CC=CC=C1 | C31H31NO4
